US03952017
Preparation of 1-methyl-5-(3-dimethylaminopropylidene)-5H-dibenzo[a,d]cycloheptene
9.2 g. of 1-methyl-5-(3-phthalimidopropylidene)-5H-dibenzo [a,d]cycloheptene are dissolved in 100 ml. of ethanol, treated with 1.2 g. of hydrazine hydrate and heated for 6 hours under reflux conditions. An excess of concentrated hydrochloric acid is added, and the mixture is heated for an additional hour under reflux conditions. The reaction mixture is filtered warm. The solid residue is washed with warm ethanol, and the residual ethanol portions are evaporated to dryness. The residue is taken up in ether. The ethereal solution is washed with dilute sodium hydroxide solution, dried and evaporated whereby 1-methyl-5-(3-aminopropylidene)-5H-dibenzo[a,d]cycloheptene remains behind as a thick oil.

reactant | 1-methyl-5-(3-phthalimidopropylidene)-5H-dibenzo [a,d]cycloheptene | CC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CCCN3C(C=2C(C3=O)=CC=CC2)=O | C27H21NO2
reactant | hydrazine hydrate | O.NN
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-methyl-5-(3-dimethylaminopropylidene)-5H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CCCN(C)C | C21H23N
